US05811428
2-CLORO-4-METHYLPYRIMIDINE-5-CARBOXYLIC ACID
A solution of ethyl 2-chloro-4-methylpyrimidine-5-carboxylate (1.0 g, 5 mmol), NaOH (0.24 g, 6 mmol) in H2O (30 mL) was stirred at room temperature for 3 h. The solution was acidified with 6N HCl and the resulting solid was filtered and dried to give the title compound (0.67 g 78%), 1HNMR (DMSO-d6) δ 9.01 (s, 1H), 2.75 (s, 3H).

reactant | ethyl 2-chloro-4-methylpyrimidine-5-carboxylate | 5 mmol, 1.0 g | ClC1=NC=C(C(=N1)C)C(=O)OCC | C8H9ClN2O2
reactant | NaOH | 6 mmol, 0.24 g | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | H2O | 30 mL | O | H2O
product | 2-CLORO-4-METHYLPYRIMIDINE-5-CARBOXYLIC ACID | 0.67 g, 78% | ClC1=NC=C(C(=N1)C)C(=O)O | C6H5ClN2O2
